US09079866B2
5-[3-Fluoro-2′-(morpholin-4-ylcarbonyl)-4′-(trifluoromethyl)biphenyl-4-yl]pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using (2-bromo-5-(trifluoromethyl)phenyl)(morpholino)methanone and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C22H18F4N4O2, 446.14; m/z found, 447.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.65-8.58 (d, J=1.3, 2H), 7.91-7.85 (dd, J=8.3, 1.9, 1H), 7.78-7.76 (m, 1H), 7.76-7.73 (d, J=8.1, 1H), 7.71-7.63 (m, 1H), 7.46-7.43 (dd, J=2.7, 1.8, 1H), 7.43-7.41 (dd, J=6.2, 1.7, 1H), 3.72-3.60 (m, 2H), 3.60-3.52 (m, 1H), 3.46-3.39 (m, 1H), 3.37-3.33 (m, 1H), 3.16-3.09 (m, 1H), 2.92-2.77 (m, 2H).

reactant | (2-bromo-5-(trifluoromethyl)phenyl)(morpholino)methanone | BrC1=C(C=C(C=C1)C(F)(F)F)C(=O)N1CCOCC1 | C12H11BrF3NO2
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-[3-Fluoro-2′-(morpholin-4-ylcarbonyl)-4′-(trifluoromethyl)biphenyl-4-yl]pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=C(C=C1)C(F)(F)F)C(=O)N1CCOCC1 | C22H18F4N4O2
